US08975265B2
To a solution of 2-[4-(1-amino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridin-7-ol (75 mg, 0.21 mmol), methyl bromoacetate (0.02 mL, 0.21 mmol, 1.0 equiv) and Cs2CO3 (138 mg, 0.422 mmol, 2 equiv) in DMF (2.5 mL) was stirred at room temperature for 12 h. The resulting mixture added to water (10 mL). The resulting mixture was extracted with EtOAc (3×10 mL). The combined organic phases were dried (Na2SO4 anh), and concentrated under reduced pressure. The remaining material was purified using MPLC (Biotage Isolera Flash NH2 Snap 10 reverse phase column; 100% CH2Cl2 for 8 min., gradient to 95% CH2Cl2: 5% MeOH over 5 min.; 95% CH2Cl2: 5% MeOH for 4 min., gradient to 80% CH2Cl2: 20% MeOH over 5 min., 80% CH2Cl2: 20% MeOH for 6.2 min., gradient to 75% CH2Cl2: 25% MeOH over 2.0 min., 75% CH2Cl2: 25% MeOH for 18.2 min.) to give {2-[4-(1-amino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridin-7-yloxy}-acetic acid methyl ester (31 mg, 34%):

reactant | 2-[4-(1-amino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridin-7-ol | 0.21 mmol, 75 mg | NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)O)C1C1=CC=CC=C1 | C23H21N3O
reactant | methyl bromoacetate | 0.21 mmol, 0.02 mL, 1.0 equiv | BrCC(=O)OC | C3H5BrO2
reactant | Cs2CO3 | 0.422 mmol, 138 mg, 2 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | 10 mL | O | H2O
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | {2-[4-(1-amino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridin-7-yloxy}-acetic acid methyl ester | 31 mg, 34% | COC(COC1=CC=2N(C=C1)C(=C(N2)C2=CC=C(C=C2)C2(CCC2)N)C2=CC=CC=C2)=O | C26H25N3O3
